US06288092B1
A solution of n-butylithium in hexane (13.2 mL of 1.6 M, 21 mmol) is added to a stirred solution of 5-bromo-indane (1.06 g 4 mmol) in dry tetrahydrofuran (30 mL) at −75° C. under an argon atmosphere. The mixture is stirred for 30 min at −65° C., then treated with triethylborate (3.07 g, 21 mmol) and stirred for 60 min at −50° C. The resulting mixture is allowed to warm to 0° C. and then treated with a saturated aqueous solution of ammonium chloride (60 mL) and extracted with ethyl acetate (2×80 mL). The combined extracts are dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by chromatography (silica gel, 50% ethyl acetate in hexaen) and recrystallised from ethyl acetate-hexane to give indan-5-boronic acid as a colourless crystalline solid.

reactant | hexane | 21 mmol, 1.6 M, 13.2 mL | CCCCCC | C6H14
reactant | 5-bromo-indane | 4 mmol, 1.06 g | BrC=1C=C2CCCC2=CC1 | C9H9Br
reactant | triethylborate | 21 mmol, 3.07 g | C(C)OB(OCC)OCC | C6H15BO3
reactant | ammonium chloride | 60 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | indan-5-boronic acid | C1CCC2=CC(=CC=C12)B(O)O | C9H11BO2
